US09056874B2
(±)-2-(1-Amino-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of (±)-N-(1-(5-cyanobenzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide (97 mg, 0.165 mmol) and HCl (1.25 M in MeOH) (792 μL, 0.990 mmol) was allowed to stir at rt for 17 h. The mixture was concentrated and then diluted with 1 M aq. NaOH, brine and CH2Cl2. The organic layer was separated and concentrated. The residue was purified by flash column chromatography on silica gel (CH2Cl2/MeOH=100:0 to 10:1) to give the title compound. MS (ESI+) m/z 484.44 (M+H).

reactant | (±)-N-(1-(5-cyanobenzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-2-methylpropane-2-sulfinamide | 0.165 mmol, 97 mg | C(#N)C1=CC2=C(N=C(N2)C(C)(C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)C(C)(C)C)C=C1 | C31H33N5O3S2
reactant | HCl | 0.990 mmol, 1.25 M, 792 μL | Cl | ClH
product | (±)-2-(1-Amino-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | NC(C)(C1=C2C=CN(C2=C(C=C1C)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=NC2=C(N1)C=CC(=C2)C#N | C27H25N5O2S
